US06828460B2
trans-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] Methane Sulfonamide
To a round bottomed flask equipped with magnetic stirrer was added trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine (248 mg, 0.57 mmol) and 1,2-dichloroethane (25 ml). To the stirred solution was added triethylamine (191 μl, 1.37 mmol) followed by methanesulfonyl chloride (53 μl, 0.68 mmol) and three crystals of 4-dimethylaminopyridine. The resulting solution was stirred at room temperature for 18 hr and then poured into a separating funnel containing dichloromethane (100 ml) and water (20 ml). The layers were separated and the aqueous phase extracted with dichloromethane (1×50 ml). The combined organic phases were washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo affording the title compound as a pale yellow oil (320 mg, 100%). δH(CDCl3) 0.02 (6H, s), 0.05 (6H, s), 0.78 (9H, s), 0.82 (9H, s), 1.22 (4H, m), 1.70 (2H, m), 1.99 (2H, m), 2.61 (1H, m), 2.81 (3H, s), 3.19 (1H, m), 3.92 (1H, d), 6.13 (1H, d), 6.22 (11H, dd), 6.66 (1H, d).

reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 0.57 mmol, 248 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)N | C24H45NO2Si2
reactant | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
reactant | triethylamine | 1.37 mmol, 191 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.68 mmol, 53 μl | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | trans-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] Methane Sulfonamide | 320 mg, 100% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C25H47NO4SSi2
